US06303790B1
A solution of 11.8 g (36.9 mMol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride and 50 ml dichloromethane was added dropwise over 15 minutes at 0° C. to a solution of 10.0 g (34.5 mMol) methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine and 8.30 ml (48 mMol) N-ethyl-di-isopropylamine in 70 ml dichloromethane. The reaction mixture was stirred 3.0 hours at 0° C., poured onto 80 ml deionized water and stirred further 30 minutes at room temperature. The phases were separated and the aqueous phase extracted with dichloromethane. The organic extracts were washed with deionized water, aqueous sodium hydroxide 2% and aqueous sodium bicarbonate 5%, dried (Na2SO4) and concentrated under reduced pressure. The residue was crystallized from ethanol at −20° C. to yield 16.25 g (81%) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide as a white powder. m.p.=128.8-129.9° C. Concentration of the mother-liquors gave 4.4 g of a slowly crystallizing orange oil which can be further purified.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 36.9 mMol, 11.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine | 34.5 mMol, 10.0 g | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1 | C17H21N3O
reactant | N-ethyl-di-isopropylamine | 48 mMol, 8.30 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide | 16.25 g, 81% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1)C)(C)C)(F)F | C29H29F6N3O2
